US07250518B2
2-(4-Fluoro-phenoxy)-N-[4-(1H-tetrazol-5-yl)-benzyl]-nicotinamide of Formula (6.5.27):
N-(4-Cyano-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide (0.090 g) was placed in a sealable tube with anhydrous toluene (2 mL). Timethylsilyl azide (0.10 mL) was added, followed dibutyltin oxide (0.010 g) and the reaction mixture heated to 110° C. for 20 h. The reaction mixture was allowed to cool to ambient temperature, and quenched with 30% sodium bicarbonate (10 mL). Ethyl acetate (10 mL) was added and the aqueous layer collected. The organic layer was subsequently extracted with 30% sodium bicarbonate (2×10 mL). The combined aqueous portions were brought to pH 2 with 3N hydrochloric acid, and extracted with ethyl acetate (5×25 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated to dryness in vacuo to yield the title compound (0.040 g).

reactant | N-(4-Cyano-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide | 0.090 g | C(#N)C1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1 | C20H14FN3O2
reactant | azide | 0.10 mL | [N-]=[N+]=[N-]
reactant | dibutyltin oxide | 0.010 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Fluoro-phenoxy)-N-[4-(1H-tetrazol-5-yl)-benzyl]-nicotinamide | 0.040 g | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)C3=NN=NN3)C=CC=N2)C=C1 | C20H15FN6O2
